US07989463B2
Step (i): Synthesis of 6,7-dihydro-5H-cyclopentapyrimidine-2,4-diol
Chlorotrimethylsilane (20.9 g, 193.6 mmol) was added drop wise under nitrogen to a solution of 2-oxo-cyclopentanecarboxylic acid methyl ester (25 g, 176 mmol) and urea (19.01 g, 316 mmol) in anhydrous DMF (200 mL) at 0° C. After addition, the mixture was warmed to a temperature in the range of 15° C. to 40° C. and stirred for 48 hours. Water was added to the mixture and the resultant precipitate was filtered, washed with water followed by petroleum ether and dried in vacuo. The solid was suspended to a solution of sodium hydroxide (19.9 g, 499 mmol) in water (280 mL) and stirred at 70° C. for 1 hour. After cooling to a temperature in the range of 15° C. to 40° C., concentrated hydrochloric acid was added drop wise to adjust the pH to ˜2. The resultant precipitate was filtered, washed with water and dried in vacuo to afford the title compound as a white solid (21.2 g, 79% yield).

reactant | Chlorotrimethylsilane | 193.6 mmol, 20.9 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-oxo-cyclopentanecarboxylic acid methyl ester | 176 mmol, 25 g | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | urea | 316 mmol, 19.01 g | NC(=O)N | CH4N2O
reactant | sodium hydroxide | 499 mmol, 19.9 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 280 mL | O | H2O
product | 6,7-dihydro-5H-cyclopentapyrimidine-2,4-diol | 21.2 g, 79% yield | N1=C(N=C(C2=C1CCC2)O)O | C7H8N2O2
